* C:\Users\kesav\eSim-Workspace\finaltry\finaltry.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/21/20 18:11:30

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M2  sample Net-_M2-Pad2_ input input eSim_MOS_P		
M1  input Net-_M1-Pad2_ sample sample eSim_MOS_N		
X1  Net-_M1-Pad2_ Net-_M2-Pad2_ INVCMOS		
v1  input GND sine		
v2  Net-_M1-Pad2_ GND pulse		
C1  sample GND .1u		
X2  ? Net-_R1-Pad2_ out1 Net-_X2-Pad4_ ? comp Net-_X2-Pad7_ ? lm_741		
v4  Net-_X2-Pad7_ GND 5		
v5  GND Net-_X2-Pad4_ 5		
R2  comp GND 1k		
R1  sample Net-_R1-Pad2_ 1k		
U2  sample plot_v1		
U1  input plot_v1		
U3  comp plot_v1		
R11  Net-_R10-Pad1_ Net-_R11-Pad2_ 2k		
R7  Net-_R5-Pad1_ Net-_R7-Pad2_ 1k		
R9  Net-_R7-Pad2_ Net-_R10-Pad1_ 1k		
R10  Net-_R10-Pad1_ d3 2k		
R8  Net-_R7-Pad2_ d2 2k		
R6  Net-_R5-Pad1_ d1 2k		
R4  Net-_R3-Pad1_ d0 2k		
R5  Net-_R5-Pad1_ Net-_R3-Pad1_ 1k		
R3  Net-_R3-Pad1_ GND 2k		
R13  out1 GND 10k		
X3  Net-_X3-Pad1_ Net-_R11-Pad2_ GND ? Net-_X3-Pad1_ out1 Net-_X2-Pad7_ ? lm_741		
R12  Net-_R11-Pad2_ out1 3k		
U4  out1 plot_v1		
U8  d3 plot_v1		
U7  d2 plot_v1		
U6  d1 plot_v1		
U5  d0 plot_v1		
v3  Net-_U9-Pad1_ GND DC		
U9  Net-_U9-Pad1_ GND Net-_M1-Pad2_ comp Net-_U11-Pad3_ Net-_U11-Pad1_ Net-_U11-Pad2_ Net-_U12-Pad1_ adc_bridge_4		
U12  Net-_U12-Pad1_ d2 Net-_U11-Pad5_ GND d3 ? d_dff		
U14  Net-_U12-Pad1_ d1 Net-_U13-Pad5_ GND d2 ? d_dff		
U16  Net-_U12-Pad1_ d0 Net-_U15-Pad5_ GND d1 ? d_dff		
U18  Net-_U12-Pad1_ Net-_U18-Pad2_ Net-_U17-Pad5_ GND d0 ? d_dff		
U20  Net-_U11-Pad1_ Net-_U11-Pad1_ Net-_U19-Pad5_ GND Net-_U18-Pad2_ ? d_dff		
U19  Net-_U17-Pad5_ Net-_U11-Pad2_ GND Net-_U11-Pad3_ Net-_U19-Pad5_ ? d_dff		
U17  Net-_U15-Pad5_ Net-_U11-Pad2_ GND Net-_U11-Pad3_ Net-_U17-Pad5_ ? d_dff		
U15  Net-_U13-Pad5_ Net-_U11-Pad2_ GND Net-_U11-Pad3_ Net-_U15-Pad5_ ? d_dff		
U13  Net-_U11-Pad5_ Net-_U11-Pad2_ GND Net-_U11-Pad3_ Net-_U13-Pad5_ ? d_dff		
U11  Net-_U11-Pad1_ Net-_U11-Pad2_ Net-_U11-Pad3_ GND Net-_U11-Pad5_ ? d_dff		

.end
